US06410556B1
To a mixture of 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester (300 mg, 0.74 mmol), benzo[1,3]dioxol-5-yl-acetic acid (134 mg, 0.74 mmol), 1-hydroxybenzotriazole hydrate (111 mg, 0.82 mmol), and N,N-diisopropyl-ethylamine (258 μL, 1.48 mmol) in acetonitrile (5 ml) at room temperature was added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (157 mg, 0.82 mmol). The reaction mixture was stirred for 16 hours and the solvent evaporated in vacuo. The residue was taken into ethylacetate (50 ml), washed with water, 1 N hydrochloric acid, saturated sodium bicarbonate, brine, dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was subjected to flash chromatography using a gradient of 10-20% ethylacetate/hexanes as eluent, which afforded 268 mg (64%) of 2-amino-5-((2-benzo[1,3]dioxol-5-yl-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-5-aminomethyl-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 0.74 mmol, 300 mg | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CN)CC2=CC=C(C=C2)OC)N | C21H29N3O3S
reactant | benzo[1,3]dioxol-5-yl-acetic acid | 0.74 mmol, 134 mg | O1COC2=C1C=CC(=C2)CC(=O)O | C9H8O4
reactant | 1-hydroxybenzotriazole hydrate | 0.82 mmol, 111 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropyl-ethylamine | 1.48 mmol, 258 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.82 mmol, 157 mg | Cl.CN(CCCN=C=NCC)C
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-amino-5-((2-benzo[1,3]dioxol-5-yl-acetylamino)methyl)-6-(4-methoxy-benzyl)-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine-3-carboxylic acid tert-butyl ester | 268 mg, 64% | C(C)(C)(C)OC(=O)C1=C(SC=2CN(C(CC21)CNC(CC2=CC1=C(OCO1)C=C2)=O)CC2=CC=C(C=C2)OC)N | C30H35N3O6S
